US07855216B2
2-Fluoro-4-trimethylsilanyl-phenol
A solution 4-bromo-2-fluoro-phenol (75 g, 0.39 mol) in THF (750 mL) was cooled to −78° C. and treated dropwise with n-butyllithium (471 mL, 2.5M solution) over 1 hour keeping the internal temperature below −60° C. After stirring for a further 30 minutes the mixture was treated with chlorotrimethylsilane (128 g, 1.18 mol) in THF (150 mL) over 30 minutes keeping the internal temperature below −60° C. After the addition the mixture was allowed to warm to 0° C. over 40 minutes. The mixture was poured into 1M hydrochloric acid and the layers separated. The aqueous layer was extracted with diethyl ether (×2) and the combined organic layers were washed with water, brine, dried (MgSO4) and concentrated in vacuo to give a colourless liquid. The liquid was dissolved in THF (750 mL) and treated with tetrabutylammonium fluoride (393 mL, 1M solution in THF). After 5 minutes the solution was poured into water and the layers separated. The aqueous layer was extracted with diethyl ether (×2) and the combined organic layers washed with water, brine, dried (MgSO4) and evaporated to a straw-coloured oil. The oil was dissolved in DCM/cyclohexane (1:1, 500 mL) and stirred with silica (15 g) and filtered. The filtrate was evaporated to give the title compound as an oil which solidified on standing (72 g, 100% yield). 1H NMR (CDCl3) 7.04-6.92 (2H, m), 6.92-6.76 (1H, m), and 0.077 (9H, s).

reactant | 4-bromo-2-fluoro-phenol | 0.39 mol, 75 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | n-butyllithium | 2.5M, 471 mL | C(CCC)[Li]
reactant | chlorotrimethylsilane | 1.18 mol, 128 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | tetrabutylammonium fluoride | 1M, 393 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 750 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 750 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Fluoro-4-trimethylsilanyl-phenol | 100% yield | FC1=C(C=CC(=C1)[Si](C)(C)C)O | C9H13FOSi
